US07320994B2
[1-(3,5-bis-trifluoromethyl-benzyl)-5-morpholin-4-yl-1H-[1,2,3]triazol-4-yl]-morpholin-4-yl-methanone
Dissolve 1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester in morpholine (20 eq). Stir at 70° C. overnight then increase temp to 80° C. and continue stirring for another 60 hours. Cool to RT, pour into separatory funnel with EtOAc and 1N HCl. Separate layers and wash organic layer with 1N HCl and then with brine. Dry over MgSO4, filter, and concentrate. Purify via silica gel chromatography using a gradient of 1:1 to 1:5 hexanes:EtOAc to give the desired product. MS (IS) 494.2 (M+1). Rf=0.16 (1:1 Hexanes:EtOAc)

reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NN(C1Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H10ClF6N3O2
reactant | morpholine | 20 eq | N1CCOCC1 | C4H9NO
reactant | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [1-(3,5-bis-trifluoromethyl-benzyl)-5-morpholin-4-yl-1H-[1,2,3]triazol-4-yl]-morpholin-4-yl-methanone | FC(C=1C=C(CN2N=NC(=C2N2CCOCC2)C(=O)N2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C20H21F6N5O3
